US06008243
According to the procedure described in Example 1(a) for the preparation of 3-biphenyl-4-yl-furan, 1-(4(S)-benzyl-2,2-dimethyl-oxazolidinyl)-2-(4-iodopyrazol-1-yl)-ethanone was coupled to 4-biphenylboronic acid to provide in 39% yield 1-(4(S)-benzyl-2,2-dimethyl-oxazolidinyl)-2-(4-biphenyl-4-yl-pyrazol-1-yl)-ethanone as a white solid, mp 150-1° C. 1H NMR: δ 7.83 (s, 1H), 7.68 (s, 1H), 7.62-7.52 (m, 6H), 7.47-7.28 (m, 8H), 4.83, 4.38 (AB quartet, 2H, J=15.6 Hz), 4.22-4.18 (m, 1H), 3.94 (m, 2H), 3.09 (dd, 1H, J=6.4, 13.0 Hz), 2.97 (dd, 1H, J=8.5, 13.2 Hz), 1.79 (s, 3H), 1.55 (s, 3H). Anal. Calculated for C29H29N3O2 : C, 77.14; H, 6.47; N, 9.31. Found: C, 77.04; H, 6.52; N, 9.37.

reactant | 3-biphenyl-4-yl-furan | C1(=CC=C(C=C1)C1=COC=C1)C1=CC=CC=C1 | C16H12O
reactant | 1-(4(S)-benzyl-2,2-dimethyl-oxazolidinyl)-2-(4-iodopyrazol-1-yl)-ethanone | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)(C)C)C(CN1N=CC(=C1)I)=O | C17H20IN3O2
reactant | 4-biphenylboronic acid | C1(=CC=C(C=C1)B(O)O)C1=CC=CC=C1 | C12H11BO2
product | 1-(4(S)-benzyl-2,2-dimethyl-oxazolidinyl)-2-(4-biphenyl-4-yl-pyrazol-1-yl)-ethanone | 39% yield | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)(C)C)C(CN1N=CC(=C1)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C29H29N3O2
